US08535974B2
Synthesis of 4,4′-((9,9-dimethyl-9H-fluorene-2,7-diyl)bis(naphthalen-1-ylazanediyl))dibenzaldehyde
To a three-neck round-bottom flask, were added 2.42 g N2,N7-bis(4-(1,3-dioxolan-2-yl)phenyl)-9,9-dimethyl-N2,N7-di(naphthalen-1-yl)-9H-fluorene-2,7-diamine and in 250 mL acetone. 20 mL 2 M hydrochloric acid solution was added slowly to the reaction mixture through an addition funnel. After TLC showed the reaction was done, the solvent was removed by evaporation. 400 mL Ethyl acetate was added, and the reaction mixture was extracted using DI water (4×200 mL). The organic layer was dried over sodium sulfate. After filtration, the solvent was removed by evaporation. The product (1.7 g) was purified by flash chromatography using hexane, and 5% and up to 15% ethyl acetate in hexane. The structure was confirmed by NMR.

reactant | N2,N7-bis(4-(1,3-dioxolan-2-yl)phenyl)-9,9-dimethyl-N2,N7-di(naphthalen-1-yl)-9H-fluorene-2,7-diamine | 2.42 g | O1C(OCC1)C1=CC=C(C=C1)N(C1=CC=2C(C3=CC(=CC=C3C2C=C1)N(C1=CC=CC2=CC=CC=C12)C1=CC=C(C=C1)C1OCCO1)(C)C)C1=CC=CC2=CC=CC=C12 | C53H44N2O4
reactant | hydrochloric acid | 2 M, 20 mL | Cl | ClH
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 4,4′-((9,9-dimethyl-9H-fluorene-2,7-diyl)bis(naphthalen-1-ylazanediyl))dibenzaldehyde | CC1(C2=CC(=CC=C2C=2C=CC(=CC12)N(C1=CC=CC2=CC=CC=C12)C1=CC=C(C=O)C=C1)N(C1=CC=CC2=CC=CC=C12)C1=CC=C(C=O)C=C1)C | C49H36N2O2
